US04028084
(b) 1-(3,4-dichlorobenzyl)-3-cyano-4-methylpyrid-2-one
A solution of 42.8 g. (0.15 mole) of N-(3,4-dichlorobenzyl)-2-cyano-3-methylcrotonamide and 18.0 g. (0.15 mole) of N,N-dimethylformamide dimethyl acetal in 250 ml. of tetrahydrofuran is stirred at ambient temperature for 22 hr. followed by 1 hr. at reflux. The solvent is removed and the tacky solid residue is heated until molten. When evolution of dimethylamine subsides the reaction mixture is allowed to cool and the dark glassy residue is recrystallized from ethanol. The solid product is slurried in ether and isolated by filtration to give 15.79 g. (36%) of product as a brown powder: m.p. 177.5°-180.5° C.; ν (ethanol) 2210 (CN) and 1670 cm.-1 (C=O); δ 8.19 (d, 1H, H6), 7.2-7.8 (m, 3H, aromatic protons), 6.46 (d, 1H, H5), 5.16 (s, 2H, benzyl methylene), and 2.4 (s, 3H, methyl).

reactant | N-(3,4-dichlorobenzyl)-2-cyano-3-methylcrotonamide | 0.15 mole | ClC=1C=C(CNC(C(=C(C)C)C#N)=O)C=CC1Cl | C13H12Cl2N2O
reactant | N,N-dimethylformamide dimethyl acetal | 0.15 mole | COC(N(C)C)OC | C5H13NO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 1-(3,4-dichlorobenzyl)-3-cyano-4-methylpyrid-2-one | ClC=1C=C(CN2C(C(=C(C=C2)C)C#N)=O)C=CC1Cl | C14H10Cl2N2O
